US06093710
A mixture of 6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene (0.80 g) and dichloromethane (CH2Cl2) was dropwise added to a mixture of aluminum chloride (AlCl3) (1.01 g) and CH2Cl2 (5 ml) under ice-water cooling, and was stirred under the same conditions for 15 minutes. A mixture of 1,1-dichloromethyl methyl ether (0.52 ml) and CH2Cl2 (3 ml) was thereto added, and was stirred under the same conditions for 10 minutes. The reaction mixture was added into a mixture of CHCl3, ice, and water. The separated organic layer was washed with water, and brine, and dried over MgSO4. After evaporation of the filtrate, the resulting oil was purified by chromatography on silica gel (n-hexane-AcOEt as eluent) to give 6-ethoxycarbonyl-2-formyl-4,5,6,7-tetrahydrobenzo[b]thiophene (0.33 g).

reactant | 6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 0.80 g | C(C)OC(=O)C1CCC2=C(SC=C2)C1 | C11H14O2S
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | aluminum chloride | 1.01 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
reactant | 1,1-dichloromethyl methyl ether | 0.52 ml | COC(Cl)Cl | C2H4Cl2O
reactant | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 6-ethoxycarbonyl-2-formyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 0.33 g | C(C)OC(=O)C1CCC2=C(SC(=C2)C=O)C1 | C12H14O3S
